US04379788
(a) 2-(4-Acetoxy-phenyl)-6-methyl-3,1-benzoxazin-4-one
10 gm (0.066 mol) of 5-methyl-anthranilic acid were dissolved in 65 ml of pyridine, and the solution was mixed, while cooling and stirring, with 15.7 gm (0.066 mol+20%) of 4-acetoxy-benzoyl chloride. After 2 hours the reaction was finished, and the reaction mixture was poured into ice water. The crystalline precipitate thus formed was suction-filtered off, washed well with water and dried.

reactant | 5-methyl-anthranilic acid | 0.066 mol, 10 gm | CC1=CC=C(C(C(=O)O)=C1)N | C8H9NO2
reactant | 4-acetoxy-benzoyl chloride | 0.066 mol, 15.7 gm | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
solvent | pyridine | 65 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Acetoxy-phenyl)-6-methyl-3,1-benzoxazin-4-one | C(C)(=O)OC1=CC=C(C=C1)C1=NC2=C(C(O1)=O)C=C(C=C2)C | C17H13NO4
